US06498170B2
(1-Benzhydryl-azetidin-3-yl)-benzyl-carbamic acid tert-butyl ester
To a solution of (1-benzhydryl-azetidin-3-yl)-benzyl-amine (0.41 g, 1.2 mmol) in dichloromethane (5 ml) was added di-tert-butyldicarbonate (0.31 g, 1.4 mmol), and the mixture was stirred at room temperature for 3 h. It was then stirred with 5 ml of 10% sodium carbonate solution for 1 h. The mixture was extracted with 20 ml of ethyl acetate, and the organic solution was washed with 1 N NaOH and brine, dried over anhydrous sodium sulfate, and evaporated. The residue was washed with hexanes to give 0.49 g of a white solid; m.p. 117-118° C.; MS (ES) m/z 429.1 (MH+); HRMS (FAB) Calcd. for C28H33N2O2 (MH+): 429.2542, Found: 429.2542.

reactant | (1-benzhydryl-azetidin-3-yl)-benzyl-amine | 1.2 mmol, 0.41 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NCC1=CC=CC=C1 | C23H24N2
reactant | di-tert-butyldicarbonate | 1.4 mmol, 0.31 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1-Benzhydryl-azetidin-3-yl)-benzyl-carbamic acid tert-butyl ester | 0.49 g | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H32N2O2
